US03943145
6,65 G (0.025 mol) of 2-amino-5,2'-dichlorobenzophenone are dissolved in a mixture of 25 ml of glacial acetic acid and 6.25 ml of concentrated hydrochloric acid and diazotised with 5 ml (0.025 mol) of 5 M sodium nitrite solution at 20°C. The mixture is then diluted with 100 ml of ice-cold water and neutralised by addition of 10 g (0.075 mol) of crystalline sodium acetate, and the turbid solution is clarified by filtration, using active charcoal. A solution of 5 g (0.077 mol) of sodium azide in 50 ml of water is added to the filtrate. The reaction product which hereupon precipitates is filtered off and washed with water. After drying over potassium hydroxide and calcium chloride in a desiccator, 2-azido-5,2'-dichlorobenzophenone of decomposition point 100°C is obtained.

reactant | 2-amino-5,2'-dichlorobenzophenone | 0.025 mol | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | sodium nitrite | 0.025 mol, 5 M, 5 ml | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.075 mol, 10 g | C(C)(=O)[O-].[Na+]
reactant | sodium azide | 0.077 mol, 5 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 6.25 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-azido-5,2'-dichlorobenzophenone | N(=[N+]=[N-])C1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H7Cl2N3O
